US08802678B2
A solution of 0.4 g (1 mmol) of 4-{2-[4-(3-hydroxymethylphenyl)piperazin-1-yl]ethyl}piperidine-1-carboxylic acid tert-butyl ester in 10 mL of dry dimethyl sulfoxyde is cooled at a temperature close to 5° C. and 40 mg (1 mmol) of sodium hydride (60% suspension) is added. The mixture is stirred for 30 minutes at room temperature then 140 mg (1 mmol) of iodomethane are added and stirring is maintained overnight at room temperature. The mixture is concentrated under reduced pressure. The residue is dissolved in ethyl acetate, washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 0.3 g (73%) of crude 4-{2-[4-(3-methoxymethylphenyl)piperazin-1-yl]ethyl}piperidine-1-carboxylic acid tert-butyl ester which is used without purification in the next step.

reactant | 4-{2-[4-(3-hydroxymethylphenyl)piperazin-1-yl]ethyl}piperidine-1-carboxylic acid tert-butyl ester | 1 mmol, 0.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1CCN(CC1)C1=CC(=CC=C1)CO | C23H37N3O3
reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | iodomethane | 1 mmol, 140 mg | IC | CH3I
solvent | dimethyl sulfoxyde | 10 mL | CS(=O)C | C2H6OS
product | 4-{2-[4-(3-methoxymethylphenyl)piperazin-1-yl]ethyl}piperidine-1-carboxylic acid tert-butyl ester | 0.3 g, 73% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1CCN(CC1)C1=CC(=CC=C1)COC | C24H39N3O3
